US09120749B2
tert-Butyl trans-4-[6-(3-chloro-4-hydroxyphenyl)-3-isobutyrylquinolin-4-ylamino]cyclohexylcarbamate
Following general procedure D, tert-butyl trans-4-(6-bromo-3-isobutyrylquinolin-4-ylamino)cyclohexylcarbamate (49 mg, 0.100 mmol) was reacted with 3-chloro-4-hydroxyphenylboronic acid (34 mg, 0.200 mmol) to afford the desired product (39 mg, 72%) as an off-white solid: ESI MS m/z 538 [C30H36ClN3O4+H]+.

reactant | tert-butyl trans-4-(6-bromo-3-isobutyrylquinolin-4-ylamino)cyclohexylcarbamate | 0.100 mmol, 49 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(C(C)C)=O)N[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C24H32BrN3O3
reactant | 3-chloro-4-hydroxyphenylboronic acid | 0.200 mmol, 34 mg | ClC=1C=C(C=CC1O)B(O)O | C6H6BClO3
product | tert-Butyl trans-4-[6-(3-chloro-4-hydroxyphenyl)-3-isobutyrylquinolin-4-ylamino]cyclohexylcarbamate | 39 mg, 72% | ClC=1C=C(C=CC1O)C=1C=C2C(=C(C=NC2=CC1)C(C(C)C)=O)N[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C30H36ClN3O4
